US09302991B2
<Step-1>: methyl 2-(cyclopropanecarboxamido)-6-methylisonicotinate
The title compound is prepared in 66% yield (1.3 g, a pale yellow solid) from methyl 2-chloro-6-methylisonicotinate (1.5 g, 8.1 mmol) and cyclopropanecarboxamide by the similar manner in Step-1 of Carboxylic acid-4.

reactant | methyl 2-chloro-6-methylisonicotinate | 8.1 mmol, 1.5 g | ClC=1C=C(C(=O)OC)C=C(N1)C | C8H8ClNO2
reactant | cyclopropanecarboxamide | C1(CC1)C(=O)N | C4H7NO
product | methyl 2-(cyclopropanecarboxamido)-6-methylisonicotinate | 66% yield | C1(CC1)C(=O)NC=1C=C(C(=O)OC)C=C(N1)C | C12H14N2O3
